US07196102B2
Step 2) 1-Quinolin-4-yl-ethanone:
To the mixture of manganese oxide (8.69 g, 100 mmol, Aldrich) in dichloromethane (80 mL) was added 1-quinolin-4-yl-ethanol (1.73 g, 10 mmol). The reaction mixture was refluxed for overnight and then cooled to room temperature. The solid was filtered out through Celite pad. The organic solution dried over anhydrous magnesium sulfate and concentrated via vacuo to give crude title compound as light yellow solid in 100% yield (1.71 g, 10.0 mmol).

reactant | 1-quinolin-4-yl-ethanol | 10 mmol, 1.73 g | N1=CC=C(C2=CC=CC=C12)C(C)O | C11H11NO
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
catalyst | manganese oxide | 100 mmol, 8.69 g | [O-2].[Mn+2]
product | 1-Quinolin-4-yl-ethanone | 100% yield | N1=CC=C(C2=CC=CC=C12)C(C)=O | C11H9NO
